US09371320B2
A) 4-bromothiophene-2-carboxamide
To a solution of 4-bromothiophene-2-carboxylic acid (15 g), HOBt ammonium salt (16.5 g) and triethylamine (20.08 mL) in acetonitrile (250 mL) was added EDCI hydrochloride (16.87 g), and the mixture was stirred overnight. The reaction mixture was washed with saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (8.0 g).

reactant | 4-bromothiophene-2-carboxylic acid | 15 g | BrC=1C=C(SC1)C(=O)O | C5H3BrO2S
reactant | triethylamine | 20.08 mL | C(C)N(CC)CC | C6H15N
reactant | EDCI hydrochloride | 16.87 g | CCN=C=NCCCN(C)C.Cl
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 4-bromothiophene-2-carboxamide | 8.0 g | BrC=1C=C(SC1)C(=O)N | C5H4BrNOS
